US07425568B2
2-Nitro-1-(2-phenylchroman-6-yloxy)-4-trifluoromethylbenzene was prepared as described for 2-nitro-1-(2-phenylchroman-6-yloxy)-benzene in Example 29(a) except that 6-hydroxyflavane (0.339 g) was used in 7 ml of dry DMSO under nitrogen. Also KI (0.374 g) and KOH (0.168 g) and 4-chloro-3-nitro-1-trifluoromethylbenzene (0.24 ml) were added in similar manner. Product was purified by column chromatography (CH2Cl2:n-heptane/60:40). 1H-NMR (300 MHz; d6-DMSO): δ 8.44 (d, 1H, J=2.1 Hz), 7.99 (dd, 1H, J=9.0 Hz; J=2.2 Hz), 7.51-7.29 (m, 5H), 7.15 (d, 1H, J=8.7 Hz), 7.09-6.91 (m, 3H), 5.15 (dd, 1H, J=10.1 Hz; J=2.3 Hz), 3.08-2.90 (m, 1H), 2.83-2.68 (m, 1H), 2.25-2.11 (m, 1H), 2.09-1.91 (m, 1H).

reactant | 2-nitro-1-(2-phenylchroman-6-yloxy)-benzene | [N+](=O)([O-])C1=C(C=CC=C1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C21H17NO4
reactant | 6-hydroxyflavane | 0.339 g | OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C15H14O2
reactant | KOH | 0.168 g | [OH-].[K+]
reactant | 4-chloro-3-nitro-1-trifluoromethylbenzene | 0.24 ml | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
product | 2-Nitro-1-(2-phenylchroman-6-yloxy)-4-trifluoromethylbenzene | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H16F3NO4
